US07223778B2
Propionyl chloride (0.058 ml, 0.67 mmol) is added to a solution of 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine (0.2 g, 0.61 mmol) and diisopropylethylamine (0.13 ml, 0.73 mmol) in CH2Cl2 (1.5 ml) at room temperature. The mixture is kept at room temperature for 3 hours, and is then diluted with EtOAc The mixture is washed with 1N NaOH and brine. After drying over Na2SO4, the solvent is removed under reduced pressure and the residue is purified by flash column chromatography (hexane/EtOAc=4:1) to give the N-[2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-yl]-propionamide. Rf (hexane/EtOAc=4:1)=0.2.

reactant | Propionyl chloride | 0.67 mmol, 0.058 ml | C(CC)(=O)Cl | C3H5ClO
reactant | 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine | 0.61 mmol, 0.2 g | COC1=NC(=C(C=C1N)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C15H15F3N2O3
reactant | diisopropylethylamine | 0.73 mmol, 0.13 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-yl]-propionamide | COC1=NC(=C(C=C1NC(CC)=O)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C18H19F3N2O4
